US03985732
A mixture of 21 g. of N-benzylproline and 300 ml. of benzene is stirred and 12 g. of thionyl chloride is added dropwise. The reaction mixture is heated on the steam bath for 2 hours, and 18 g. of ethyl N-methylanthranilate are added. The mixture is heated at reflux temperature for 6 hours, washed with dilute sodium hydroxide and concentrated. The residue is purified by partition chromatography and ethyl N-(N-benzyl-2-pyrrolidinylcarbonyl)-N-methylanthranilate is obtained.

reactant | N-benzylproline | C(C1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C12H15NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl N-methylanthranilate | CNC=1C(C(=O)OCC)=CC=CC1 | C10H13NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl N-(N-benzyl-2-pyrrolidinylcarbonyl)-N-methylanthranilate | C(C1=CC=CC=C1)N1C(CCC1)C(=O)N(C=1C(C(=O)OCC)=CC=CC1)C | C22H26N2O3
